US05519040
TBDMSCl (3.5 g, 23.2 mmol) and DBU (3.5 mL, 23.2 mmol) were added to a solution of 2-(1-hydroxy-1-cyclopropylmethyl)thiazole (3.0 g, 19.4 mmol) in dry THF (40 mL). The mixture was stirred at rt for 16 h, then quenched with water and the layers separated. The aqueous portion was extracted with EtOAc, the combined extracts dried (MgSO4) and concentrated. The material was purified by flash chromatography using 5% EtOAc/hexane to give 4.97 g (95%) of 2-(1-t-butyldimethylsiloxy-1-cyclopropylmethyl)thiazole as a colorless oil.

reactant | TBDMSCl | 23.2 mmol, 3.5 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | DBU | 23.2 mmol, 3.5 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-(1-hydroxy-1-cyclopropylmethyl)thiazole | 19.4 mmol, 3.0 g | OC(C1CC1)C=1SC=CN1 | C7H9NOS
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(1-t-butyldimethylsiloxy-1-cyclopropylmethyl)thiazole | 4.97 g, 95% | O([Si](C)(C)C(C)(C)C)C(C1CC1)C=1SC=CN1 | C13H23NOSSi
